US08222416B2
A mixture of 4[1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(tetrahydro-pyran-4-yl)-vinyl]-2-fluoro-benzoic acid methyl ester (400 mg, 0.74 mmol) and tetrabutylammonium fluoride solution in tetrahydrofuran (1 M, 4 ml) was stirred at 25° C. for 16 h. The reaction was quenched with a saturated aqueous ammonium chloride solution (20 mL). The mixture was extracted with ethyl acetate (2×100 mL), washed with a saturated aqueous ammonium chloride solution (3×50 mL), brine, dried over anhydrous sodium sulfate and concentrated in vacuo to afford 2-fluoro-4-[1-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(tetrahydro-pyran-4-yl)-vinyl]-benzoic acid methyl ester (250 mg, 84%) as a solid which was used in the next step without further purification: LC/MS m/e calcd for C22H20F2N2O3 [M+H] 399.41, observed 399.0.

reactant | 4[1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(tetrahydro-pyran-4-yl)-vinyl]-2-fluoro-benzoic acid methyl ester | 0.74 mmol, 400 mg | COC(C1=C(C=C(C=C1)C(=CC1CCOCC1)C1=CC=2C(=NC=C(C2)F)N1S(=O)(=O)C1=CC=CC=C1)F)=O | C28H24F2N2O5S
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 1 M, 4 ml | O1CCCC1 | C4H8O
product | 2-fluoro-4-[1-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(tetrahydro-pyran-4-yl)-vinyl]-benzoic acid methyl ester | 250 mg, 84% | COC(C1=C(C=C(C=C1)C(=CC1CCOCC1)C1=CC=2C(=NC=C(C2)F)N1)F)=O | C22H20F2N2O3
